US07906517B2
Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (412 mg) is dissolved in toluene (5 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (112 mg), 2-(di-tert-butylphosphino)biphenyl (146 mg), sodium tert-butoxide (176 mg) and ethyl piperidine-4-carboxylate (140 μl), and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-ethyl piperidine-4-carboxylate (72 mg). MS (m/z): 750 [M+H]+

reactant | Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 412 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C24H18BrF9N4O2
reactant | 2-(di-tert-butylphosphino)biphenyl | 146 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 176 mg | CC(C)([O-])C.[Na+]
reactant | ethyl piperidine-4-carboxylate | 140 μl | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 112 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-ethyl piperidine-4-carboxylate | 72 mg | N1CCC(CC1)C(=O)OC(C)C=1C=NC(=NC1)N(CC1=C(C=CC(=C1)C(F)(F)F)N(CC)C(=O)OCC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C34H36F9N5O4
